.options savecurrents

.param R1_val=90k
.param R2_val=20k
.param Rc_val=0.86k
.param Re_val=0.2k
.param Rout_val=0.052k
.param Ci_val=102u
.param Cb_val=2185u
.param Co_val=1466u

.csparam R1_val={R1_val}
.csparam R2_val={R2_val}
.csparam Rc_val={Rc_val}
.csparam Re_val={Re_val}
.csparam Rout_val={Rout_val}
.csparam Ci_val={Ci_val}
.csparam Cb_val={Cb_val}
.csparam Co_val={Co_val}



* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)



Ci 0 base {Ci_val}

* bias circuit
R1 vcc base {R1_val}
R2 base 0 {R2_val}
Vcc vcc 0 12

* gain stage
Q1 coll base emit BC547A
Rc vcc coll {Rc_val}
Re emit 0 {Re_val}
Cb emit 0 {Cb_val}


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc {Rout_val}
Co emit2 out {Co_val}

* Test source
VL out 0 0.0 ac 1.0 


.control

print all


ac dec 10 10 100MEG

let Zout_re= Re(-v(out)[40]/i(VL)[40])
let Zout_im= Im(-v(out)[40]/i(VL)[40])

echo "Zout_TAB"
echo "Zout = $&Zout_re + $&Zout_im j"
echo "Zout_END"


quit
.endc

.end
